### ISSUE TITLE
Gallery integrity: erdos-327 vanDoorn_bound axiom is INCONSISTENT (proves False)

### ISSUE THREAD

**Issue by rjwalters** [rjwalters/lean-genius#41182]
## Integrity Issue — CRITICAL (inconsistent axiom)

**Proof**: erdos-327 (`proofs/Proofs/Erdos327Problem.lean`)
**Problem**: The sole axiom `vanDoorn_bound` is mathematically false as stated and lets the kernel derive `False`. Everything downstream (and the whole gallery entry) is compromised.

## Evidence

The axiom (line 53):
```lean
axiom vanDoorn_bound (N : ℕ) (A : Finset ℕ) :
    A ⊆ Finset.Icc 1 N → (25 * N ≤ 28 * A.card) →
      ∃ a ∈ A, ∃ b ∈ A, a ≠ b ∧ a + b ∣ a * b
```

It is quantified over **all** `N` with no lower bound. Instantiate `N := 1`, `A := {1}`:
- `{1} ⊆ Finset.Icc 1 1`  ✓  (`Icc 1 1 = {1}`)
- `25 * 1 ≤ 28 * ({1}).card`  →  `25 ≤ 28`  ✓
- Conclusion demands a **distinct** pair `a ≠ b` inside the singleton `{1}` — impossible.

So the axiom's conclusion is false while both hypotheses hold ⇒ `False`. Verified to compile (exit 0, no errors):
```lean
theorem inconsistent : False := by
  have h := vanDoorn_bound 1 {1} (by decide) (by decide)
  obtain ⟨a, ha, b, hb, hab, _⟩ := h
  simp only [Finset.mem_singleton] at ha hb
  subst ha; subst hb
  exact hab rfl
```
(N=2 with A={1,2} is a second witness: `1+2=3 ∤ 2`.)

## Root cause

Van Doorn's 25/28 density result is **asymptotic** — it only holds for `N` sufficiently large. Encoding it as `∀ N` (no threshold) makes it false at small `N`. This is the same failure mode as the `∀N≥1` asymptotic-bound inconsistencies (cf. erdos-36, erdos-452).

## Recommended Fix

Add an existential threshold so the bound only applies for large `N`, e.g.:
```lean
axiom vanDoorn_bound :
    ∃ N₀ : ℕ, ∀ (N : ℕ), N₀ ≤ N → ∀ (A : Finset ℕ),
      A ⊆ Finset.Icc 1 N → (25 * N ≤ 28 * A.card) →
        ∃ a ∈ A, ∃ b ∈ A, a ≠ b ∧ a + b ∣ a * b
```
(or attach a concrete `N₀`). Then re-verify the file still builds. meta.json counts (1 axiom, 8 theorems, 5 defs, 0 sorries) are otherwise accurate; status `axiomatized`/badge `axiom` is fine once the axiom is consistent.

---
Discovered during gallery integrity audit.
